US06706707B2
3,5-Dimethyl-2-m-tolylethynyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=283.6 (M+H+), was prepared in accordance with the general method of example 1b from 1-ethynyl-3-methyl-benzene and 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester.

reactant | 1-ethynyl-3-methyl-benzene | C(#C)C1=CC(=CC=C1)C | C9H8
reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
product | 3,5-Dimethyl-2-m-tolylethynyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC=1C=C(C=CC1)C)C | C17H18N2O2
